US07282588B2
1-[2-(4-bromophenyl)ethyl]pyrrolidine
To a solution of 4-bromophenethyl alcohol (2.54 mmol) and p-toluenesulfonyl chloride (2.74 mmol) in anhydrous dichloromethane (5 mL) under nitrogen was added triethylamine (2.74 mmol) dropwise by syringe at room temperature. The reaction was stirred for 16 hours at room temperature. A white precipitate formed. 1N HCl solution (5 mL) was added to the suspension and the reaction became clear. The layers were separated and the organic layer was washed with saturated aqueous sodium bicarbonate solution (5 mL), dried over magnesium sulfate and concentrated in vacuo to give a white solid. To this crude product was added pyrrolidine (1 mL) under nitrogen and the reaction was stirred at 50° C. for 90 minutes. The reaction was cooled to room temperature and concentrated in vacuo. The resulting residue was dissolved in ethyl acetate (20 mL) and washed successively with water (20 mL) and saturated aqueous sodium bicarbonate solution (20 mL), dried over magnesium sulfate and concentrated in vacuo. Purification by silica gel chromatography (20-100% ethyl acetate/hexanes) afforded the title compound as a white solid (80%). ESMS [M+H]+: 254.2.

reactant | 4-bromophenethyl alcohol | 2.54 mmol | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | p-toluenesulfonyl chloride | 2.74 mmol | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 2.74 mmol | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 5 mL | Cl | ClH
reactant | pyrrolidine | 1 mL | N1CCCC1 | C4H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[2-(4-bromophenyl)ethyl]pyrrolidine | 80% | BrC1=CC=C(C=C1)CCN1CCCC1 | C12H16BrN
